2119-01-21 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Pauses up to 2 secs on Beta blockade
 MULTI LUMEN - START [**2119-1-20**] 08:42 PM
 INVASIVE VENTILATION - START [**2119-1-20**] 09:00 PM
 DIALYSIS CATHETER - START [**2119-1-20**] 09:30 PM
 EKG - At [**2119-1-20**] 10:04 PM
 BLOOD CULTURED - At [**2119-1-20**] 10:15 PM
 FEVER - 101.2
F - [**2119-1-20**] 08:32 PM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2119-1-20**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-1-21**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.5
C (97.7
   HR: 101 (72 - 136) bpm
   BP: 141/106(114) {112/23(41) - 141/106(114)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     75 mL
                                                                    121 mL
   PO:
             TF:
             59 mL
   IVF:
                                                                     25 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     75 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 126
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.39/51/42/28/4
   Ve: 7.8 L/min
   PaO2 / FiO2: 84
   Physical Examination
   General Obese woman lying in bed, appearing somewhat uncomfortable but
   in no acute distress
   HEENT Sclera white, conjunctiva pink
   Neck Unable to assess JVP secondary to large neck. Well-healed trach
   scar at base of neck. +goiter
   Pulm Lungs with rhonchi bilaterally, no wheezing
   CV Irregular tachycardiac no murmurs appreciated
   Chest R dialysis catheter in place no tenderness, erythema, or exudate
   Abd Obese +bowel sounds nontender large panus
   Extrem Warm 2+ edema bilateral LE, well healing wounds medial upper
   thighs, palpable distal pulses. Red rash R arm where BP cuff had been
   located.
   Neuro Alert and awake, able to write answers to questions on
   whiteboard, no gross focal deficits
   Labs / Radiology
   203 K/uL
   11.0 g/dL
   79 mg/dL
   3.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   11 mg/dL
   100 mEq/L
   141 mEq/L
   33.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2119-1-20**]  09:33 PM
                             [**2119-1-20**]  11:46 PM
                             [**2119-1-20**]  11:57 PM
                             [**2119-1-21**]  04:07 AM
   WBC
   7.6
   6.1
   Hct
   33.1
   33.0
   Plt
   218
   203
   Cr
   3.0
   3.3
   TCO2
   32
   32
   Glucose
   79
   79
   Other labs: PT / PTT / INR:32.7/43.7/3.4, CK / CKMB / Troponin-T:37//,
   Differential-Neuts:77.4 %, Lymph:13.6 %, Mono:4.8 %, Eos:3.6 %,
   Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5278**] is a 64F with multiple medical problems including ESRD on
   HD, morbid obesity, afib, tracheobronchomalacia, multinodular goiter,
   and OSA who is transferred to [**Hospital1 19**] for IP eval for
   ?tracheobronchomalacia
   .
   1. Respiratory failure
   History suggestive of a URI/bronchitis prior to transfer to OSH, would
   also consider pna though no reported fevers, no clear infiltrate on cxr
   here. Given HD, fluid overload is another possibility. Increased SOB in
   hospital may be secondary to PE, would also consider MI given ST/T
   changes present on her EKG though acute ischemia less likely.
   Tracheobronchomalacia may have been contributory to her difficulties
   tolerating discontinuation of mechanical ventilation. Her pulmonary
   reserve is limited given her morbid obesity. Her large goiter may also
   worsen breathing especially while supine. In terms of other causes of
   her SOB, poor rate control of her atrial fibrillation is another
   importance consideration.
   - IP to pursue bronchoscopy to further workup ?TBM likely Monday per IP
   - CXR, sputum gram stain and culture to evaluate for pna
   - Will hold on further bronchodilators as not wheezing now and afib not
   well rate controlled
   - EKG, cycle cardiac enzymes-currently pending
   - ASA 325 daily
   - Hold abx for pneumonia as long as afebrile and cultures pending.
   .
   2. Fever
   In the setting of loose stools and recent broad spectrum abx she is at
   significant risk of recurrent C. difficile colitis. Pna is another
   consideration. PE itself could cause mild fever though to 101F less
   likely.
   - CXR, sputum as above. Also check blood and urine cx, UA, stool C diff
   - Empiric flagyl pending C diff toxin assay
   .
   3. Pulmonary embolism
   Patient with significant RV dysfunction on her OSH echo, but this may
   be secondary to her OSA. She is hemodynamically stable at this time. It
   appears she had been subtherapeutic on her anticoagulation which in
   concert with her very limited mobility puts her at significant risk for
   DVT and PE.
   - INR supra-therapeutic currently, continue to assess need for warfarin
   based on daily INR
   - CT chest per rads did not show any PE, PNA.  Did have b/l small
   pleural effusions
   .
   4. ESRD on HD
   Gets HD [**Last Name (LF) 5280**], [**First Name3 (LF) **] arrange for HD while in house
   .
   6. Atrial fibrillation
   Rate currently poorly controlled on [**Hospital1 7**] metoprolol, will increased to
   50 TID.
   - Hold warfarin today given INR 3.2, repeat INR in AM
   .
   7. HTN-Received 5 mg IV metoprolol x 2 on arrival for tachycardia to
   150
s.  As well as 50 mg PO metoprolol. Tachycardia again this morning
   -Continue metoprolol-may need more frequent dosing if breaks through
   early from Q 8 dosing
   .
   8. Leg wounds
   -f/u wound care recs
   .
   9. Anemia
   [**Month (only) 51**] be [**1-30**] to renal insufficiency and phlebotomy. Per records she does
   have history of Fe deficiency. No gross bleeding currently. Check
   retic, smear-decreased retics.  Could represent acute inflammatory
   change vs. suppression of chronic disease.  Will evaluate other labs
   prior to further workup.
   -         iron panel, b12, folate-pending
   -          guiac stools and
   -         follow hct daily.
   -         Maintain Type and screen.
   .
   10. Anxiety
   Confirm home zoloft, ok to restart along with ativan as needed.
   .
   FEN continue tube feeds, npo after midnight Sunday, replete lytes
   Access central line -> remove and place PICC in AM
   PPX therapeutic on warfarin, contact precautions
   Dispo ICU
   Code full
   [**Name (NI) **] husband [**Name (NI) **] [**Name (NI) 5278**] [**Telephone/Fax (5) 5281**]
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 CELLULITIS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2119-1-21**] 12:15 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-1-20**] 08:42 PM
   Dialysis Catheter - [**2119-1-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-01-22 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2119-1-21**] 08:08 AM
 STOOL CULTURE - At [**2119-1-21**] 08:08 AM
   r/o c.diff.
 BLOOD CULTURED - At [**2119-1-21**] 12:36 PM
 ULTRASOUND - At [**2119-1-21**] 01:59 PM
   [**2119-1-21**]:
   - CE stable with trop constant at 0.26
   - IP evaluated, likely dialysis & bronch/extubation on Monday
   - TTE performed, read pending
   - Make NPO tonight
   - PICC pending Sunday AM following femoral removal
   - Repeat INR 2.3
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-1-22**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-1-22**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 97 (77 - 133) bpm
   BP: 142/81(96) {93/43(40) - 142/95(101)} mmHg
   RR: 22 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                    988 mL
                                                                    343 mL
   PO:
             TF:
                                                                    679 mL
                                                                    258 mL
   IVF:
                                                                    140 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    988 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 27.5 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 7.6 L/min
   Physical Examination
   General Obese woman lying in bed, appearing somewhat uncomfortable but
   in no acute distress
   HEENT Sclera white, conjunctiva pink
   Neck Unable to assess JVP secondary to large neck. Well-healed trach
   scar at base of neck. +goiter
   Pulm Lungs with rhonchi bilaterally, no wheezing
   CV Irregular tachycardiac no murmurs appreciated
   Chest R dialysis catheter in place no tenderness, erythema, or exudate
   Abd Obese +bowel sounds nontender large panus
   Extrem Warm 2+ edema bilateral LE, well healing wounds medial upper
   thighs, palpable distal pulses. Red rash R arm where BP cuff had been
   located.
   Neuro Alert and awake, able to write answers to questions on
   whiteboard, no gross focal deficits
   Labs / Radiology
   280 K/uL
   10.9 g/dL
   109 mg/dL
   4.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   17 mg/dL
   101 mEq/L
   138 mEq/L
   34.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2119-1-20**]  09:33 PM
                             [**2119-1-20**]  11:46 PM
                             [**2119-1-20**]  11:57 PM
                             [**2119-1-21**]  04:07 AM
                             [**2119-1-21**]  12:15 PM
                             [**2119-1-21**]  09:21 PM
                             [**2119-1-22**]  04:05 AM
   WBC
   7.6
   6.1
   8.9
   Hct
   33.1
   33.0
   34.1
   Plt
   [**Telephone/Fax (3) 5319**]
   Cr
   3.0
   3.3
   4.3
   TropT
   0.22
   0.23
   0.23
   TCO2
   32
   32
   Glucose
   79
   79
   98
   109
   Other labs: PT / PTT / INR:19.4/33.0/1.8, CK / CKMB /
   Troponin-T:38//0.23, Differential-Neuts:77.4 %, Lymph:13.6 %, Mono:4.8
   %, Eos:3.6 %, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5278**] is a 64F with multiple medical problems including ESRD on
   HD, morbid obesity, afib, tracheobronchomalacia, multinodular goiter,
   and OSA who is transferred to [**Hospital1 19**] for IP eval for
   ?tracheobronchomalacia
   .
   1. Respiratory failure:  Likely multifactorial secondary to OSA,
   obesity hypoventilation syndrome, CHF, volume overload from ESRD and
   URI/bronchitis prior to transfer to OSH, would also consider pna though
   no reported fevers, no clear infiltrate on cxr here. Given HD, fluid
   overload is another possibility. Increased SOB in hospital may be
   secondary to PE, would also consider MI given ST/T changes present on
   her EKG though acute ischemia less likely. Tracheobronchomalacia may
   have been contributory to her difficulties tolerating discontinuation
   of mechanical ventilation. Her pulmonary reserve is limited given her
   morbid obesity. Her large goiter may also worsen breathing especially
   while supine. In terms of other causes of her SOB, poor rate control of
   her atrial fibrillation is another importance consideration.
   - IP to pursue bronchoscopy to further workup ?TBM likely Monday per IP
   - CXR, sputum gram stain and culture to evaluate for pna
   - Will hold on further bronchodilators as not wheezing now and afib not
   well rate controlled
   - EKG, cycle cardiac enzymes-currently pending
   - ASA 325 daily
   - Hold abx for pneumonia as long as afebrile and cultures pending.
   .
   2. Fever
   In the setting of loose stools and recent broad spectrum abx she is at
   significant risk of recurrent C. difficile colitis. Pna is another
   consideration. PE itself could cause mild fever though to 101F less
   likely.
   - CXR, sputum as above. Also check blood and urine cx, UA, stool C diff
   - Empiric flagyl pending C diff toxin assay
   .
   3. Pulmonary embolism
   Patient with significant RV dysfunction on her OSH echo, but this may
   be secondary to her OSA. She is hemodynamically stable at this time. It
   appears she had been subtherapeutic on her anticoagulation which in
   concert with her very limited mobility puts her at significant risk for
   DVT and PE.
   - INR supra-therapeutic currently, continue to assess need for warfarin
   based on daily INR
   - CT chest per rads did not show any PE, PNA.  Did have b/l small
   pleural effusions
   .
   4. ESRD on HD
   Gets HD [**Last Name (LF) 5280**], [**First Name3 (LF) **] arrange for HD while in house
   .
   6. Atrial fibrillation
   Rate currently poorly controlled on [**Hospital1 7**] metoprolol, will increased to
   50 TID.
   - Hold warfarin today given INR 3.2, repeat INR in AM
   .
   7. HTN-Received 5 mg IV metoprolol x 2 on arrival for tachycardia to
   150
s.  As well as 50 mg PO metoprolol. Tachycardia again this morning
   -Continue metoprolol-may need more frequent dosing if breaks through
   early from Q 8 dosing
   .
   8. Leg wounds
   -f/u wound care recs
   .
   9. Anemia
   [**Month (only) 51**] be [**1-30**] to renal insufficiency and phlebotomy. Per records she does
   have history of Fe deficiency. No gross bleeding currently. Check
   retic, smear-decreased retics.  Could represent acute inflammatory
   change vs. suppression of chronic disease.  Will evaluate other labs
   prior to further workup.
   -          iron panel, b12, folate-pending
   -           guiac stools and
   -          follow hct daily.
   -          Maintain Type and screen.
   .
   10. Anxiety
   Confirm home zoloft, ok to restart along with ativan as needed.
   .
   FEN continue tube feeds, npo after midnight Sunday, replete lytes
   Access central line -> remove and place PICC in AM
   PPX therapeutic on warfarin, contact precautions
   Dispo ICU
   Code full
   [**Name (NI) **] husband [**Name (NI) **] [**Name (NI) 5278**] [**Telephone/Fax (5) 5281**]
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 CELLULITIS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-1-20**] 08:42 PM
   Dialysis Catheter - [**2119-1-20**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-01-23 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Radiology reports 50% chance that there is a small right lower
   segment PE, however most likely not, poor study
   - Coumadin restarted
   - HD tomorrow
   - IP does not want to do bronchoscopy while still intubated, thinks
   unlikely to be tracheobronchomalacia.  Will extubate tomorrow following
   HD.  [**Month (only) 51**] require bronch following.
   - Triamcinolone cream for facial rash
   - PICC needs to be readusted by IR tomorrow
   - Additional ativan overnight for agitation
 PICC LINE - START [**2119-1-22**] 10:03 AM
 MULTI LUMEN - STOP [**2119-1-22**] 02:00 PM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-1-22**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-1-23**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.5
C (97.7
   HR: 79 (79 - 120) bpm
   BP: 98/59(69) {85/55(69) - 126/84(100)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,427 mL
                  PO:
                  TF:
                                                                    960 mL
   IVF:
                                                                     37 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,427 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 241 (241 - 461) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 5.3 L/min
   Physical Examination
   General Obese woman lying in bed, appearing somewhat uncomfortable but
   in no acute distress
   HEENT Sclera white, conjunctiva pink
   Neck Unable to assess JVP secondary to large neck. Well-healed trach
   scar at base of neck. +goiter
   Pulm Lungs with rhonchi bilaterally, no wheezing
   CV Irregular tachycardiac no murmurs appreciated
   Chest R dialysis catheter in place no tenderness, erythema, or exudate
   Abd Obese +bowel sounds nontender large panus
   Extrem Warm 2+ edema bilateral LE, well healing wounds medial upper
   thighs, palpable distal pulses. Red rash R arm where BP cuff had been
   located.
   Neuro Alert and awake, able to write answers to questions on
   whiteboard, no gross focal deficits
   Labs / Radiology
   319 K/uL
   10.8 g/dL
   86 mg/dL
   5.1 mg/dL
   29 mEq/L
   4.3 mEq/L
   22 mg/dL
   99 mEq/L
   138 mEq/L
   34.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2119-1-20**]  09:33 PM
                             [**2119-1-20**]  11:46 PM
                             [**2119-1-20**]  11:57 PM
                             [**2119-1-21**]  04:07 AM
                             [**2119-1-21**]  12:15 PM
                             [**2119-1-21**]  09:21 PM
                             [**2119-1-22**]  04:05 AM
                             [**2119-1-23**]  03:22 AM
   WBC
   7.6
   6.1
   8.9
   12.1
   Hct
   33.1
   33.0
   34.1
   34.9
   Plt
   [**Telephone/Fax (3) 5330**]19
   Cr
   3.0
   3.3
   4.3
   5.1
   TropT
   0.22
   0.23
   0.23
   TCO2
   32
   32
   Glucose
   79
   79
   98
   109
   86
   Other labs: PT / PTT / INR:14.8/30.7/1.3, CK / CKMB /
   Troponin-T:38//0.23, Differential-Neuts:77.4 %, Lymph:13.6 %, Mono:4.8
   %, Eos:3.6 %, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5278**] is a 64F with multiple medical problems including ESRD on
   HD, morbid obesity, afib, tracheobronchomalacia, multinodular goiter,
   and OSA who is transferred to [**Hospital1 19**] for IP eval for
   ?tracheobronchomalacia
   .
   1. Respiratory failure:  Likely multifactorial secondary to OSA,
   obesity hypoventilation syndrome, CHF, volume overload from ESRD,
   goiter and URI/bronchitis prior to transfer to OSH.
   Tracheobronchomalacia may have been contributory to her difficulties
   tolerating discontinuation of mechanical ventilation, however less
   likely. Her pulmonary reserve is limited given her morbid obesity.
   - IP does not plan to pursue bronchoscopy, they would like the patient
   to be dialyzed today and then extubated following.  If the patient does
   well, then no need for bronchoscopy, if the patient does not do well,
   then she will undergo bronchoscopy to evaluate for
   tracheobronchomalacia.
   - Follow cultures
   - Hold abx for pneumonia as long as afebrile and cultures pending.
   .
   2. Fever:  Currently afebrile, mildly elevated temps overnight.  C diff
   negative.  Will discontinue flagyl.  Will trend and culture if spikes.
   Hold all antibiotics for now.
   .
   3. ?  Pulmonary embolism:  Will attempt to get Attending read on OSH
   Chest CT to eval for PE.  INR sub therapeutic currently for PICC
   placement this AM, will need to hold today as well as pt requires
   replacement of the PICC by IR tomorrow.
   -Likely small PE that does not merit anticoagulation.  Coincidentally
   on Coumadin for A fib, will not bridge with heparin
   .
   4. ESRD on HD:  Gets HD MWF
   - Renal on board
   - Will get HD today
   .
   5. Atrial fibrillation:  Rate currently poorly controlled on [**Hospital1 7**]
   metoprolol, will increased to 50 TID.
   - Restart coumadin today
   - Follow daily INR
   .
   6. HTN-Received 5 mg IV metoprolol x 2 on arrival for tachycardia to
   150
s.  As well as 50 mg PO metoprolol. Tachycardia again this morning,
   but remains normotensive
   -Continue metoprolol-may need more frequent dosing if breaks through
   early from Q 8 dosing
   .
   7. Leg wounds
   -f/u wound care recs
   .
   8. Anemia
   [**Month (only) 51**] be [**1-30**] to renal insufficiency and phlebotomy. Per records she does
   have history of Fe deficiency. No gross bleeding currently. Check
   retic-low, smear-decreased retics.  Could represent acute inflammatory
   change vs. suppression of chronic disease.  Will evaluate other labs
   prior to further workup. Likely AOCD, ferritin high but also acute
   phase reactant.  Of note B12 also high
   -          guiac stools and
   -          follow hct daily.
   -          Maintain Type and screen.
   .
   9. Anxiety
   Confirm home zoloft, ok to restart along with ativan as needed.
   .
   FEN Restart tube feeds after extubation, replete lytes
   Access central line -> remove and place PICC in AM
   PPX subtherapeutic on warfarin, contact precautions
   Dispo ICU
   Code full
   [**Name (NI) **] husband [**Name (NI) **] [**Name (NI) 5278**] [**Telephone/Fax (5) 5281**]
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 CELLULITIS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2119-1-20**] 09:30 PM
   PICC Line - [**2119-1-22**] 10:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-01-24 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2119-1-23**] 10:30 AM
 PICC LINE - START [**2119-1-23**] 10:30 AM
   Picc Line replacement-IR
 INVASIVE VENTILATION - STOP [**2119-1-23**] 04:52 PM
   [**2119-1-23**] Events:
   -Extubated
   -Had HD
   -Ate overnight, but coughed during eating so stopped solids and allowed
   sips only. NPO after midnight for possible IP procedure
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-1-24**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 100 (75 - 119) bpm
   BP: 118/69(82) {97/55(64) - 155/91(112)} mmHg
   RR: 23 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                    350 mL
                  PO:
                                                                    200 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,150 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 486 (190 - 486) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 6.1 L/min
   Physical Examination
   General Obese woman lying in bed, appearing somewhat uncomfortable but
   in no acute distress
   HEENT Sclera white, conjunctiva pink
   Neck Unable to assess JVP secondary to large neck. Well-healed trach
   scar at base of neck. +goiter
   Pulm Lungs with rhonchi bilaterally, no wheezing
   CV Irregular tachycardiac no murmurs appreciated
   Chest R dialysis catheter in place no tenderness, erythema, or exudate
   Abd Obese +bowel sounds nontender large panus
   Extrem Warm 2+ edema bilateral LE, well healing wounds medial upper
   thighs, palpable distal pulses. Red rash R arm where BP cuff had been
   located.
   Neuro Alert and awake, able to write answers to questions on
   whiteboard, no gross focal deficits
   Labs / Radiology
   335 K/uL
   10.5 g/dL
   84 mg/dL
   4.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   34.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2119-1-20**]  09:33 PM
                             [**2119-1-20**]  11:46 PM
                             [**2119-1-20**]  11:57 PM
                             [**2119-1-21**]  04:07 AM
                             [**2119-1-21**]  12:15 PM
                             [**2119-1-21**]  09:21 PM
                             [**2119-1-22**]  04:05 AM
                             [**2119-1-23**]  03:22 AM
                             [**2119-1-24**]  03:21 AM
   WBC
   7.6
   6.1
   8.9
   12.1
   9.3
   Hct
   33.1
   33.0
   34.1
   34.9
   34.3
   Plt
   [**Telephone/Fax (3) 5330**]19
   335
   Cr
   3.0
   3.3
   4.3
   5.1
   4.4
   TropT
   0.22
   0.23
   0.23
   TCO2
   32
   32
   Glucose
   79
   79
   98
   109
   86
   84
   Other labs: PT / PTT / INR:15.7/30.1/1.4, CK / CKMB /
   Troponin-T:38//0.23, Differential-Neuts:77.4 %, Lymph:13.6 %, Mono:4.8
   %, Eos:3.6 %, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5278**] is a 64F with multiple medical problems including ESRD on
   HD, morbid obesity, afib, tracheobronchomalacia, multinodular goiter,
   and OSA who is transferred to [**Hospital1 19**] for IP eval for
   ?tracheobronchomalacia
   .
   1. Respiratory failure:  Likely multifactorial secondary to OSA,
   obesity hypoventilation syndrome, CHF, volume overload from ESRD,
   goiter and URI/bronchitis prior to transfer to OSH.
   Tracheobronchomalacia may have been contributory to her difficulties
   tolerating discontinuation of mechanical ventilation, however less
   likely. Her pulmonary reserve is limited given her morbid obesity.
   - IP does not plan to pursue bronchoscopy, they would like the patient
   to be dialyzed today and then extubated following.  If the patient does
   well, then no need for bronchoscopy, if the patient does not do well,
   then she will undergo bronchoscopy to evaluate for
   tracheobronchomalacia.
   - Follow cultures
   - Hold abx for pneumonia as long as afebrile and cultures pending.
   .
   2. Fever:  Currently afebrile, mildly elevated temps overnight.  C diff
   negative.  Will discontinue flagyl.  Will trend and culture if spikes.
   Hold all antibiotics for now.
   .
   3. ?  Pulmonary embolism:  Will attempt to get Attending read on OSH
   Chest CT to eval for PE.  INR sub therapeutic currently for PICC
   placement this AM, will need to hold today as well as pt requires
   replacement of the PICC by IR tomorrow.
   -Likely small PE that does not merit anticoagulation.  Coincidentally
   on Coumadin for A fib, will not bridge with heparin
   .
   4. ESRD on HD:  Gets HD MWF
   - Renal on board
   - Will get HD today
   .
   5. Atrial fibrillation:  Rate currently poorly controlled on [**Hospital1 7**]
   metoprolol, will increased to 50 TID.
   - Restart coumadin today
   - Follow daily INR
   .
   6. HTN-Received 5 mg IV metoprolol x 2 on arrival for tachycardia to
   150
s.  As well as 50 mg PO metoprolol. Tachycardia again this morning,
   but remains normotensive
   -Continue metoprolol-may need more frequent dosing if breaks through
   early from Q 8 dosing
   .
   7. Leg wounds
   -f/u wound care recs
   .
   8. Anemia
   [**Month (only) 51**] be [**1-30**] to renal insufficiency and phlebotomy. Per records she does
   have history of Fe deficiency. No gross bleeding currently. Check
   retic-low, smear-decreased retics.  Could represent acute inflammatory
   change vs. suppression of chronic disease.  Will evaluate other labs
   prior to further workup. Likely AOCD, ferritin high but also acute
   phase reactant.  Of note B12 also high
   -          guiac stools and
   -          follow hct daily.
   -          Maintain Type and screen.
   .
   9. Anxiety
   Confirm home zoloft, ok to restart along with ativan as needed.
   .
   FEN Restart tube feeds after extubation, replete lytes
   Access central line -> remove and place PICC in AM
   PPX subtherapeutic on warfarin, contact precautions
   Dispo ICU
   Code full
   [**Name (NI) **] husband [**Name (NI) **] [**Name (NI) 5278**] [**Telephone/Fax (5) 5281**]
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 CELLULITIS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2119-1-20**] 09:30 PM
   PICC Line - [**2119-1-23**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-01-26 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2119-1-25**] 05:50 PM
   [**2119-1-25**] Events:
   - ABG showed hypercarbia, placed on CPAP
   - NPO at midnight for OR in AM
   - FFP, Desmopressin on call to the OR tomorrow
   - Gave 10mg IV diltiazem for HR up to 140's, responded well with
   decrease in HR down to 80's-90's
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2119-1-25**] 11:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-1-26**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 103 (92 - 121) bpm
   BP: 120/78(87) {103/58(70) - 143/102(109)} mmHg
   RR: 19 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                    120 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    120 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.31/56/99.[**Numeric Identifier 508**]/28/0
   Physical Examination
   General Obese woman lying in bed, comfortable in no acute distress
   HEENT Sclera white, conjunctiva pink
   Neck Unable to assess JVP secondary to large neck. Well-healed trach
   scar at base of neck. +goiter
   Pulm Lungs with rhonchi bilaterally, no wheezing
   CV Irregular tachycardiac no murmurs appreciated
   Chest R dialysis catheter in place no tenderness, erythema, or exudate
   Abd Obese +bowel sounds nontender large panus
   Extrem Warm 2+ edema bilateral LE, well healing wounds medial upper
   thighs, palpable distal pulses. Red rash R arm where BP cuff had been
   located.
   Neuro Alert and awake, no gross focal deficits
   Labs / Radiology
   380 K/uL
   12.0 g/dL
   97 mg/dL
   4.3 mg/dL
   28 mEq/L
   4.8 mEq/L
   15 mg/dL
   105 mEq/L
   141 mEq/L
   38.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2119-1-21**]  04:07 AM
                             [**2119-1-21**]  12:15 PM
                             [**2119-1-21**]  09:21 PM
                             [**2119-1-22**]  04:05 AM
                             [**2119-1-23**]  03:22 AM
                             [**2119-1-24**]  03:21 AM
                             [**2119-1-25**]  08:23 PM
                             [**2119-1-25**]  10:05 PM
                             [**2119-1-26**]  02:03 AM
                             [**2119-1-26**]  02:20 AM
   WBC
   6.1
   8.9
   12.1
   9.3
   8.0
   Hct
   33.0
   34.1
   34.9
   34.3
   38.9
   Plt
   [**Telephone/Fax (3) 5400**]35
   380
   Cr
   3.3
   4.3
   5.1
   4.4
   4.3
   TropT
   0.22
   0.23
   0.23
   TCO2
   27
   28
   30
   Glucose
   79
   98
   109
   86
   84
   97
   Other labs: PT / PTT / INR:22.3/33.8/2.1, CK / CKMB /
   Troponin-T:38//0.23, Differential-Neuts:77.4 %, Lymph:13.6 %, Mono:4.8
   %, Eos:3.6 %, Ca++:9.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5278**] is a 64F with multiple medical problems including ESRD on
   HD, morbid obesity, afib, multinodular goiter, and OSA who was
   transferred to [**Hospital1 19**] for IP eval for cause of frequent intubations and
   concern for tracheobronchomalacia.
   .
   #. Respiratory failure:  Likely multifactorial secondary to OSA,
   obesity hypoventilation syndrome, CHF, volume overload from ESRD,
   goiter and URI/bronchitis prior to transfer to OSH.  The patient
   underwent formal bronchoscopy today which showed 80% stenosis of her
   trachea at the level of her previous tracheostomy stoma.  The patient
   will go to the OR tomorrow for correction of the stenosis.
   - FFP x3 and desmopressin to the OR today
   - Held coumadin, restart per IP
   - Cultures negative, afebrile, no leukocytosis, therefore infectious
   process unlikely to be a cause of respiratory failure, no antibiotics.
   - Volume removal with HD today.
   - ipratropium nebulizer treatments as needed, hold albuterol as
   tachycardic
   - CPAP overnight as needed
   .
   #. ESRD on HD:  Gets HD MWF as an outpatient.  Renal on board.
   - HD provided for volume removal, will have today, may require UF
   tomorrow after the OR
   - Desmopressin for platelet dysfunction to the OR.
   .
   #. Atrial fibrillation:  Was poorly controlled on [**Hospital1 7**] metoprolol when
   admitted.  Switched dosing to metoprolol 75 TID with better control,
   now increased to 87.5mg Q6H.
   - Continue metoprolol, however as patient responded so well to
   diltiazem yesterday, may consider switching to PO diltiazem via a dilt
   drip if goes into RVR again.
   - Hold coumadin
   .
   #. HTN:  Controlled with metoprolol only.
   #. Leg wounds:  Wound care consulted.
   .
   #. Anemia:  Most likely secondary to ESRD.  Stools not guaiac
   positive.
   - Follow hct daily.
   - Maintain active type and screen.
   - EPO at HD
   .
   #. Anxiety:  Continue home zoloft, with ativan as needed.
   .
   FEN NPO for OR today, replete lytes PRN
   Access PICC
   PPX heparin SC TID, contact precautions for now for ? MRSA
   Code full
   [**Name (NI) **] husband [**Name (NI) **] [**Name (NI) 5278**] [**Telephone/Fax (1) 5281**]
 IMPAIRED SKIN INTEGRITY
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, CHRONIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 CELLULITIS
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   PICC Line - [**2119-1-25**] 05:50 PM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Will stay in the ICU

2119-01-27 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Bronch relieved stenosis, no complications
   -Had HD today with 3 kg UF
   -Changed metoprolol to dilt
   -MRSA screen pending
   -500 cc bolus of LR for pressure in 80s
   S: Breathing
about the same
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2119-1-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-1-27**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 109 (71 - 125) bpm
   BP: 116/76(86) {81/18(38) - 125/89(94)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
                  Total In:
                                                                  1,386 mL
                                                                    200 mL
   PO:
                                                                    550 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
                                                                    836 mL
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,614 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Obese woman lying in bed, comfortable in no acute distress
   HEENT Sclera white, conjunctiva pink
   Neck Unable to assess JVP secondary to large neck. Well-healed trach
   scar at base of neck. +goiter
   Pulm Lungs with rhonchi bilaterally, no wheezing
   CV Irregular tachycardiac no murmurs appreciated
   Chest R dialysis catheter in place no tenderness, erythema, or exudate
   Abd Obese +bowel sounds nontender large panus
   Extrem Warm 2+ edema bilateral LE, well healing wounds medial upper
   thighs, palpable distal pulses. Red rash R arm where BP cuff had been
   located.
   Neuro Alert and awake, no gross focal deficits
   Labs / Radiology
   379 K/uL
   10.4 g/dL
   87 mg/dL
   5.3 mg/dL
   28 mEq/L
   4.3 mEq/L
   20 mg/dL
   98 mEq/L
   138 mEq/L
   34.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2119-1-21**]  12:15 PM
                             [**2119-1-21**]  09:21 PM
                             [**2119-1-22**]  04:05 AM
                             [**2119-1-23**]  03:22 AM
                             [**2119-1-24**]  03:21 AM
                             [**2119-1-25**]  08:23 PM
                             [**2119-1-25**]  10:05 PM
                             [**2119-1-26**]  02:03 AM
                             [**2119-1-26**]  02:20 AM
                             [**2119-1-27**]  04:09 AM
   WBC
   8.9
   12.1
   9.3
   8.0
   8.8
   Hct
   34.1
   34.9
   34.3
   38.9
   34.0
   Plt
   280
   319
   335
   380
   379
   Cr
   4.3
   5.1
   4.4
   4.3
   5.3
   TropT
   0.23
   0.23
   TCO2
   27
   28
   30
   Glucose
   98
   109
   86
   84
   97
   87
   Other labs: PT / PTT / INR:23.3/36.2/2.3, CK / CKMB /
   Troponin-T:38//0.23, Differential-Neuts:77.4 %, Lymph:13.6 %, Mono:4.8
   %, Eos:3.6 %, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: Face tent obscuring neck, otherwise no change
   Microbiology: None
   Assessment and Plan
   Ms. [**Known lastname 5278**] is a 64F with multiple medical problems including ESRD on
   HD, morbid obesity, afib, multinodular goiter, and OSA who was
   transferred to [**Hospital1 19**] for IP eval for cause of frequent intubations and
   concern for tracheobronchomalacia.
   #. Respiratory failure:  Likely multifactorial secondary to OSA,
   obesity hypoventilation syndrome, CHF, volume overload from ESRD,
   goiter and URI/bronchitis prior to transfer to OSH.  The patient
   underwent formal bronchoscopy today which showed 80% stenosis of her
   trachea at the level of her previous tracheostomy stoma.  Successful
   recannalization in OR yesterday.
   - Held coumadin, restart per IP
   - Cultures negative, afebrile, no leukocytosis, therefore infectious
   process unlikely to be a cause of respiratory failure, no antibiotics.
   - Volume removal with HD prn
   - ipratropium nebulizer treatments as needed, hold albuterol as
   tachycardic
   - CPAP overnight as needed
   #. ESRD on HD:  Gets HD MWF as an outpatient.  Renal on board.
   - HD provided for volume removal, will have today, may require UF
   tomorrow after the OR
   - Desmopressin for platelet dysfunction to the OR.
   .
   #. Atrial fibrillation:  Was poorly controlled on [**Hospital1 7**] metoprolol when
   admitted.  Switched dosing to metoprolol 75 TID with better control,
   now increased to 87.5mg Q6H.
   - Continue metoprolol, however as patient responded so well to
   diltiazem yesterday, may consider switching to PO diltiazem via a dilt
   drip if goes into RVR again.
   - Hold coumadin
   .
   #. HTN:  Controlled with metoprolol only.
   #. Leg wounds:  Wound care consulted.
   .
   #. Anemia:  Most likely secondary to ESRD.  Stools not guaiac
   positive.
   - Follow hct daily.
   - Maintain active type and screen.
   - EPO at HD
   .
   #. Anxiety:  Continue home zoloft, with ativan as needed.
   .
   FEN NPO for OR today, replete lytes PRN
   Access PICC
   PPX heparin SC TID, contact precautions for now for ? MRSA
   Code full
   [**Name (NI) **] husband [**Name (NI) **] [**Name (NI) 5278**] [**Telephone/Fax (1) 5281**]
   Dispo: C/O to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-1-25**] 05:50 PM
   Dialysis Catheter - [**2119-1-26**] 09:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: